US09359381B2
Step 4: 9-(4-Chlorothiazol-2-yl)-5-(3-fluorophenyl)-1,3-dimethyl-8-methylene-8,9-dihydro-1H-pyrimido[4,5-a]pyrrolizine-2,4(3H,7H)-dione
Sodium hydride (60% wt. in mineral oil, 31.2 mg, 0.779 mmol) was added to a solution of 2-((4-chlorothiazol-2-yl) (5-(3-fluorophenyl)-1,3-dimethyl-2,4-dioxo-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidin-7-yl)methyl)allyl methanesulfonate (140 mg, 0.260 mmol) in THF (8 mL). The mixture was stirred at room temperature for 2 hours. A further portion of sodium hydride (31.2 mg, 0.779 mmol) was added to allow the reaction to run to completion. The reaction was quenched with water and extracted with DCM (3×). The combined organic extracts were passed through a hydrophobic frit and evaporated under vacuum. Purification by chromatography on silica, eluting with 20-100% EtOAc/hexane, afforded the title compound.

reactant | Sodium hydride | 0.779 mmol, 31.2 mg | [H-].[Na+]
reactant | 2-((4-chlorothiazol-2-yl) (5-(3-fluorophenyl)-1,3-dimethyl-2,4-dioxo-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidin-7-yl)methyl)allyl methanesulfonate | 0.260 mmol, 140 mg | CS(=O)(=O)OCC(=C)C(C=1NC(=C2C1N(C(N(C2=O)C)=O)C)C2=CC(=CC=C2)F)C=2SC=C(N2)Cl | C22H20ClFN4O5S2
reactant | sodium hydride | 0.779 mmol, 31.2 mg | [H-].[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 9-(4-Chlorothiazol-2-yl)-5-(3-fluorophenyl)-1,3-dimethyl-8-methylene-8,9-dihydro-1H-pyrimido[4,5-a]pyrrolizine-2,4(3H,7H)-dione | ClC=1N=C(SC1)C1C(CN2C(=C3C(=C12)N(C(N(C3=O)C)=O)C)C3=CC(=CC=C3)F)=C | C21H16ClFN4O2S
